US05068325
2-Amino-6-(3-(3-cyano-phenyl)allyl)-4,5,7,8-tetrahydro- 6H-thiazolo[5,4-d]azepine
Prepared analogously to Example 1 from 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine, potassium carbonate and 3-cyano-cinnamyl bromide (melting point: 52°-55° C.) in anhydrous dimethylformamide for 2 hours at 20° C. Yield: 48% of theory, Melting point: 136°-140° C. (ether).

reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-cyano-cinnamyl bromide | C(#N)C=1C=C(C=CCBr)C=CC1 | C10H8BrN
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Amino-6-(3-(3-cyano-phenyl)allyl)-4,5,7,8-tetrahydro- 6H-thiazolo[5,4-d]azepine | Yield: 48% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC(=CC=C1)C#N | C17H18N4S
